2156-12-19 07:41:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 NASAL SWAB - At [**2156-12-18**] 05:52 PM
 EKG - At [**2156-12-18**] 06:14 PM
 PICC LINE - START [**2156-12-18**] 09:02 PM
   -          started on milrinone gtt + lasix gtt
   -          downtitrated lasix gtt overnight
   -          this morning stopped lasix gtt altogether
   Allergies:
   Penicillins
   Rash;
   Flonase (Nasal) (Fluticasone Propionate)
   Wheezing;
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 900 units/hour
   Milrinone - 0.375 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2156-12-19**] 07:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 36
C (96.8
   HR: 94 (83 - 100) bpm
   BP: 101/64(73) {89/45(55) - 117/74(82)} mmHg
   RR: 21 (11 - 26) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 64 Inch
             Total In:
                                                                    427 mL
                                                                    312 mL
   PO:
                                                                    300 mL
             TF:
   IVF:
                                                                    127 mL
                                                                    312 mL
   Blood products:
   Total out:
                                                                    390 mL
                                                                  2,475 mL
   Urine:
                                                                    390 mL
                                                                  2,475 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     37 mL
                                                                 -2,163 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///27/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   253 K/uL
   12.5 g/dL
   126 mg/dL
   1.0 mg/dL
   27 mEq/L
   3.1 mEq/L
   16 mg/dL
   97 mEq/L
   136 mEq/L
   38.1 %
   6.2 K/uL
        [image002.jpg]
                            [**2156-12-18**]  10:00 PM
                            [**2156-12-19**]  04:04 AM
   WBC
   6.2
   Hct
   38.1
   Plt
   253
   Cr
   1.2
   1.0
   Glucose
   164
   126
   Other labs: PT / PTT / INR:14.7/78.9/1.3, ALT / AST:52/39, Alk Phos / T
   Bili:86/1.2, Ca++:8.4 mg/dL, Mg++:1.9 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
   46 F with history of asthma and seasonal allergies who presents with
   3-week history of worsening SOB in context of sinusitis/URI, found to
   have dilated cardiomyopathy, EF 15% transferred to the CCU for
   hypotension and decreased UOP.
   .
   # PUMP:  Dilated LV with severe sys dysfxn EF 15% of unclear etiology.
   LV thrombus found on TTE. We have no prior EKGs for comparison and no
   history of recent ischemic event. Given temporal relationship to recent
   URI my be infectious in etiology. CEs neg x4. TSH nl.
   - continue lasix gtt w/ goal I/O -2-3L, consider adding milrinone if
   UOP tapers off, support w/ pressors prn
   - monitor [**Hospital1 7**] lytes
   - daily EKG/continue telemetry monitoring
   - consider cardiac MR [**First Name (Titles) **] [**Last Name (Titles) 1088**] for further evaluation of a scar
   - will need cardiac cath once hemodynamically stabilized
   - continue low dose BB, ACE with strict holding parameters - uptitrate
   as tolerated
   - strict I/Os, daily weights, low salt diet/1500cc free water
   restriction
   - continue heparin for LV thrombus, hold on coumadin bridge until
   further evaluation
   .
   # RHYTHM: Was in sinus tach on presentation. Now with rates
   consistently <100.
   - Continue beta blockade as tolerated.
   - Assessment for ICD placement as outpatient when patient stable to
   assess NYHA [**Last Name (LF) 11529**], [**First Name3 (LF) **].
   .
   # CORONARIES: No known history of CAD. EKG with LBBB. Troponins flat
   since admission.
   - plan for cardiac MR/cath once hemodynamics improved.
   .
   # Asthma: Long standing w/ evidence of air trapping on CTA. Had been on
   long-standing predinsone and now off, no evidence of adrenal
   insufficiency on random cortisol.
   - Continue Spiriva
   - switch pulmicort to advair while inpatient
   - cont Xopenex nebs to avoid contributing to tachycardia
   - Will hold off on prednisone for now
   - O2 PRN for SOB
   .
   # Steroid Induced Diabetes Mellitus HbA1c = 8.1 % on admission.
   Question steroids as cause although does have family history with
   mother having type II. Will recommend outpatient follow up on
   discharge.
   - Continue HISS and check FS QID
   .
   # LV thrombus. Noted on echocardiogram as above.
   - Continue heparin gtt titrated to goal PTT 60-100
   - will hold on initiation of coumadin pending further work up
   .
   # Nausea/vomiting/diaphoresis. Patient has had N/V regularly over the
   past 3 weeks and during her stay so far. LFTs mildly elevated without
   evidence of obstruction on RUQ US from admission. Possibly related to
   bowel congestion from volume overload.
   - Zofran PRN for nausea
   - f/u lipase
   .
   # Elevated LFTs. Appear stable. Hep A, Hep B serology negative.
   Possibly secondary to NASH or hepatic congestion from impaired right
   ventricular function. Have been slowly down trending.
   - f/u iron and HIV labs
   - continue to monitor
   .
   # FEN: diabetic, Cardiac heart healthy diet
   # ACCESS: PIV's, will place PICC for milrinone
   # PROPHYLAXIS: heparin gtt
   # CODE: full
   # DISPO: CCU overnight, possibly to [**Hospital1 1896**] team if BP stable
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2156-12-18**] 05:00 PM
   22 Gauge - [**2156-12-18**] 05:00 PM
   PICC Line - [**2156-12-18**] 09:02 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2156-12-20 07:04:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - cath in am
   - off lasix gtt, -2L.
   Allergies:
   Penicillins
   Rash;
   Flonase (Nasal) (Fluticasone Propionate)
   Wheezing;
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 900 units/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2156-12-20**] 07:01 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 36.2
C (97.1
   HR: 104 (85 - 120) bpm
   BP: 120/74(84) {87/43(60) - 120/74(84)} mmHg
   RR: 19 (11 - 27) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 103 kg (admission): 105 kg
   Height: 64 Inch
             Total In:
                                                                  1,479 mL
                                                                    122 mL
   PO:
                                                                    750 mL
             TF:
   IVF:
                                                                    729 mL
                                                                    122 mL
   Blood products:
   Total out:
                                                                  3,880 mL
                                                                    398 mL
   Urine:
                                                                  3,880 mL
                                                                    398 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,401 mL
                                                                   -276 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96%
   ABG: ///27/
   Physical Examination
   GENERAL: WDWN obsese female in NAD. Oriented x3. Mood, affect
   appropriate.
   HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were pink, no
   pallor. + perioral cyanosis of the oral mucosa. No xanthalesma.
   NECK: Supple with JVP at earlobes.
   CARDIAC: PMI not palpable. Regular, normal S1, S2. No m/r/g. No
   thrills, lifts. No S3 or S4.
   LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp were
   unlabored, no accessory muscle use. CTAB, no crackles, wheezes or
   rhonchi.
   ABDOMEN: Obses, Soft, ND, mild diffuse tenderness. No HSM appreciated.
   EXTREMITIES: Cool hands/feet. LE edema pitting to just below knees b/l.
   No femoral bruits.
   SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.
   PULSES:
   Right: DP 2+ PT 2+
   Left: DP 2+ PT 2+
   Labs / Radiology
   206 K/uL
   12.1 g/dL
   145 mg/dL
   0.8 mg/dL
   27 mEq/L
   3.8 mEq/L
   12 mg/dL
   101 mEq/L
   137 mEq/L
   35.5 %
   5.8 K/uL
        [image002.jpg]
                            [**2156-12-18**]  10:00 PM
                            [**2156-12-19**]  04:04 AM
                            [**2156-12-19**]  06:30 PM
                            [**2156-12-20**]  05:37 AM
   WBC
   6.2
   5.8
   Hct
   38.1
   35.5
   Plt
   253
   206
   Cr
   1.2
   1.0
   0.9
   0.8
   Glucose
   164
   126
   188
   145
   Other labs: PT / PTT / INR:13.7/67.5/1.2, ALT / AST:52/39, Alk Phos / T
   Bili:86/1.2, Albumin:3.8 g/dL, LDH:252 IU/L, Ca++:8.9 mg/dL, Mg++:1.9
   mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
   46 F with history of asthma and seasonal allergies who presents with
   3-week history of worsening SOB in context of sinusitis/URI, found to
   have dilated cardiomyopathy, EF 15% transferred to the CCU for
   hypotension and decreased UOP.
   .
   # PUMP:  Dilated LV with severe sys dysfxn EF 15% of unclear etiology.
   LV thrombus found on TTE. We have no prior EKGs for comparison and no
   history of recent ischemic event. Given temporal relationship to recent
   URI my be infectious in etiology. CEs neg x4. TSH nl.
   - continue lasix gtt w/ goal I/O -2-3L, add milrinone if UOP tapers
   off, support w/ pressors prn
   - monitor [**Hospital1 7**] lytes, daily EKG/continue telemetry monitoring
   - going for cardiac cath, stopping milirone prior to cath.
   - continue low dose BB (coreg), ACE with strict holding parameters -
   uptitrate as tolerated
   - strict I/Os, daily weights, low salt diet/1500cc free water
   restriction
   - continue heparin for LV thrombus, hold on coumadin bridge until
   further evaluation
   .
   # RHYTHM: Was in sinus tach on presentation. Now with rates
   consistently <100.
   - Continue beta blockade as tolerated.
   - Assessment for ICD placement as outpatient when patient stable to
   assess NYHA [**Last Name (LF) 11529**], [**First Name3 (LF) **].
   .
   # CORONARIES: No known history of CAD. EKG with LBBB. Troponins flat
   since admission.
   - plan for cardiac MR/cath once hemodynamics improved.
   .
   # Asthma: Long standing w/ evidence of air trapping on CTA. Had been on
   long-standing predinsone and now off, no evidence of adrenal
   insufficiency on random cortisol.
   - Continue Spiriva
   - switch pulmicort to advair while inpatient
   - cont Xopenex nebs to avoid contributing to tachycardia
   - Will hold off on prednisone for now
   - O2 PRN for SOB
   .
   # Steroid Induced Diabetes Mellitus HbA1c = 8.1 % on admission.
   Question steroids as cause although does have family history with
   mother having type II. Will recommend outpatient follow up on
   discharge.
   - Continue HISS and check FS QID
   .
   # LV thrombus. Noted on echocardiogram as above.
   - Continue heparin gtt titrated to goal PTT 60-100
   - will hold on initiation of coumadin pending further work up
   .
   # Nausea/vomiting/diaphoresis. Patient has had N/V regularly over the
   past 3 weeks and during her stay so far. LFTs mildly elevated without
   evidence of obstruction on RUQ US from admission. Possibly related to
   bowel congestion from volume overload.
   - Zofran PRN for nausea
   - f/u lipase
   .
   # Elevated LFTs. Appear stable. Hep A, Hep B serology negative.
   Possibly secondary to NASH or hepatic congestion from impaired right
   ventricular function. Have been slowly down trending.
   - f/u iron and HIV labs
   - continue to monitor
   .
   # FEN: diabetic, Cardiac heart healthy diet
   # ACCESS: PIV's, will place PICC for milrinone
   # PROPHYLAXIS: heparin gtt
   # CODE: full
   # DISPO: CCU overnight, possibly to [**Hospital1 1896**] team if BP stable
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2156-12-18**] 09:02 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I have also reviewed the notes of Dr(s). [**Name (NI) 11042**].
   I would add the following remarks:
   History
   Continues good diuresis on low dose milrinone
   denies SOB
   neg 2L
   Medical Decision Making
   R and L cath today.
   Will adjust lisinopril and add coreg as tolerated.
   Above discussed extensively with patient.
   Total time spent on patient care: 30 minutes of critical care time.
   ------ Protected Section Addendum Entered By:[**Name (NI) 20**] [**Last Name (NamePattern1) 2736**], MD
   on:[**2156-12-20**] 13:43 ------

2156-12-21 07:33:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 CARDIAC CATH - At [**2156-12-20**] 11:15 AM
 URINE CULTURE - At [**2156-12-20**] 07:30 PM
   - Cath revealed RCA, LAD disease, severe pulmonary artery hypertension,
   severely elevated wedge, [**Year (4 digits) **] to RCA deployed
   Allergies:
   Penicillins
   Rash;
   Flonase (Nasal) (Fluticasone Propionate)
   Wheezing;
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 900 units/hour
   Furosemide (Lasix) - 7.5 mg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2156-12-21**] 07:28 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.1
C (97
   Tcurrent: 36.1
C (97
   HR: 91 (91 - 113) bpm
   BP: 106/82(87) {91/18(41) - 116/82(87)} mmHg
   RR: 18 (14 - 23) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 103 kg (admission): 105 kg
   Height: 64 Inch
             Total In:
                                                                    918 mL
                                                                    413 mL
   PO:
                                                                    180 mL
                                                                    180 mL
   TF:
   IVF:
                                                                    738 mL
                                                                    233 mL
   Blood products:
   Total out:
                                                                  1,728 mL
                                                                  1,675 mL
   Urine:
                                                                  1,728 mL
                                                                  1,675 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -810 mL
                                                                 -1,262 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 95%
   ABG: 7.45/35/94.[**Numeric Identifier 126**]/27/0
   Physical Examination
   GENERAL: WDWN obese female in NAD. Oriented x3. Mood, affect
   appropriate.
   HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were pink, no
   pallor. + perioral cyanosis of the oral mucosa. No xanthalesma.
   NECK: Supple, JVD to mid-neck @ 30 degrees.
   CARDIAC: PMI not palpable. Regular, normal S1, S2. No m/r/g. No
   thrills, lifts. No S3 or S4.
   LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp were
   unlabored, no accessory muscle use. CTAB, no crackles, wheezes or
   rhonchi.
   ABDOMEN: Obese, Soft, ND, mild diffuse tenderness. No HSM appreciated.
   EXTREMITIES: Cool hands/feet. [**2-6**]+ LE edema pitting to mid-shins b/l.
   No femoral bruits.
   Labs / Radiology
   270 K/uL
   12.5 g/dL
   237 mg/dL
   0.7 mg/dL
   27 mEq/L
   4.5 mEq/L
   11 mg/dL
   97 mEq/L
   131 mEq/L
   38.2 %
   6.3 K/uL
        [image002.jpg]
                            [**2156-12-18**]  10:00 PM
                            [**2156-12-19**]  04:04 AM
                            [**2156-12-19**]  06:30 PM
                            [**2156-12-20**]  05:37 AM
                            [**2156-12-20**]  04:01 PM
                            [**2156-12-20**]  08:33 PM
                            [**2156-12-21**]  06:32 AM
   WBC
   6.2
   5.8
   6.3
   Hct
   38.1
   35.5
   40
   38.2
   Plt
   [**Telephone/Fax (3) 11576**]
   Cr
   1.2
   1.0
   0.9
   0.8
   0.7
   TCO2
   25
   Glucose
   164
   126
   188
   145
   237
   Other labs: PT / PTT / INR:13.7/67.5/1.2, ALT / AST:52/39, Alk Phos / T
   Bili:86/1.2, Albumin:3.8 g/dL, LDH:252 IU/L, Ca++:9.0 mg/dL, Mg++:2.0
   mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
   46 F with history of asthma and seasonal allergies who presents with
   3-week history of worsening SOB in context of sinusitis/URI, found to
   have dilated cardiomyopathy, EF 15% transferred to the CCU for
   hypotension and decreased UOP.
   .
   # PUMP:  Dilated LV with severe sys dysfxn EF 15% of likely ischemic
   etiology. LV thrombus found on TTE.  CEs neg x4. TSH nl.
   - continue lasix gtt w/ goal I/O -2-3L
   - monitor [**Hospital1 7**] lytes, daily EKG/continue telemetry monitoring
   - continue low dose BB, ACE with strict holding parameters - uptitrate
   as tolerated
   - strict I/Os, daily weights, low salt diet/1500cc free water
   restriction
   - continue heparin for LV thrombus, hold on coumadin bridge until
   further evaluation
   .
   # RHYTHM: Was in sinus tach on presentation. Now with rates
   consistently <100.
   - Continue beta blockade as tolerated.
   - Patient may benefit from BiV pacer given LBBB (widened QRS) vs. ICD
   placement.  EP following.
   - Cardiac MR to establish scar prior to ICD, ? BIV Pacer
   .
   # CORONARIES: No prior known history of CAD. EKG with LBBB. Troponins
   flat since admission.  2VD noted on cath, s/p [**Hospital1 **] (Endeavor)
 RCA.
   - plan for cardiac MR/cath once hemodynamics improved.
   - Change omeprazole to H2 blocker if necessary at all
   - plavix loaded
   - Statin on board
   - Aspirin 325 for at least 3 mos., then 162 mg
   - Plavix must be continued for 3 mos s/[**Initials (NamePattern4) **] [**Last Name (NamePattern4) **] [**Last Name (Prefixes) 6618**] (Endeavor),
   ideally 12 mos.
   .
   # Asthma: Long standing w/ evidence of air trapping on CTA. Had been on
   long-standing predinsone and now off, no evidence of adrenal
   insufficiency on random cortisol.
   - Continue Spiriva
   - switch pulmicort to advair while inpatient
   - cont Xopenex nebs to avoid contributing to tachycardia
   - Will hold off on prednisone for now
   - O2 PRN for SOB
   .
   # Steroid Induced Diabetes Mellitus HbA1c = 8.1 % on admission.
   Question steroids as cause although does have family history with
   mother having type II. Will recommend outpatient follow up on
   discharge.
   - Continue HISS and check FS QID
   - establish fixed dose insulin requirements, insulin teaching as
   patient will need insulin on discharge
   - discuss [**Last Name (un) 303**] consult with Dr. [**Last Name (STitle) **]
   .
   # LV thrombus. Noted on echocardiogram as above.
   - Continue heparin gtt titrated to goal PTT 60-100
   - will hold on initiation of coumadin pending further work up (whether
   patient will need ICD/pacer placement this admission).
   .
   # Nausea/vomiting/diaphoresis. Patient has had N/V regularly over the
   past 3 weeks and during her stay so far. LFTs mildly elevated without
   evidence of obstruction on RUQ US from admission. Possibly related to
   bowel congestion from volume overload.
   - Zofran PRN for nausea
   - f/u lipase
   - switched to H2 blocker given that patient now on Plavix
   .
   # Elevated LFTs. Appear stable. Hep A, Hep B serology negative.
   Possibly secondary to NASH or hepatic congestion from impaired right
   ventricular function. Have been slowly down trending.
   - f/u iron and HIV labs
   - continue to monitor
   .
   # FEN: diabetic, Cardiac heart healthy diet
   # ACCESS: PIV, PICC
   # PROPHYLAXIS: heparin gtt
   # CODE: full
   # DISPO: to [**Hospital1 1896**] today
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2156-12-18**] 09:02 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I have also reviewed the notes of Dr(s). [**Name (NI) 11054**].
   I would add the following remarks:
   History
   Cath films and data reviewed.   Stable after [**Name (NI) **] of RCA.  PCW 35 with
   good diuresis overnight on lasix drip off milrinone.
   Cr 0.7.
   Physical Examination
   Chest clear.
   Mild edema.
   Medical Decision Making
   Continue vigorous diuresis.
   EP to see re eventual plans for AICD/BIV pacing.
   Meds adjusted including beta blocker, ACE, heparin transitioning to
   coumadin for apical thrombus.
   CHF svc input appreciated.
   Above discussed extensively with patient.
   Total time spent on patient care: 30 minutes of critical care time.
   ------ Protected Section Addendum Entered By:[**Name (NI) 20**] [**Last Name (NamePattern1) 2736**], MD
   on:[**2156-12-21**] 11:30 ------

2156-12-22 07:41:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - got cardiac MR today
   - 8 beat run of NSVT @ 1410, while sleeping
   - EP: f/u as outpatient in [**3-9**] mos., will re-eval today as patient had
   NSVT but likely no changes in recs
   - continued good diuresis on lasix gtt alone
   - tried to call out to [**Hospital1 1896**] but no beds available
   Allergies:
   Penicillins
   Rash;
   Flonase (Nasal) (Fluticasone Propionate)
   Wheezing;
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 1,000 units/hour
   Other ICU medications:
   Omeprazole (Prilosec) - [**2156-12-21**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2156-12-22**] 07:29 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.2
C (97.2
   Tcurrent: 35.6
C (96
   HR: 89 (85 - 100) bpm
   BP: 86/55(62) {86/13(34) - 116/94(99)} mmHg
   RR: 19 (10 - 28) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 99.9 kg (admission): 105 kg
   Height: 64 Inch
             Total In:
                                                                  1,426 mL
                                                                    159 mL
   PO:
                                                                    780 mL
             TF:
   IVF:
                                                                    646 mL
                                                                    159 mL
   Blood products:
   Total out:
                                                                  4,215 mL
                                                                    850 mL
   Urine:
                                                                  4,215 mL
                                                                    850 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,789 mL
                                                                   -691 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: ///29/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   259 K/uL
   12.7 g/dL
   142 mg/dL
   0.9 mg/dL
   29 mEq/L
   4.2 mEq/L
   15 mg/dL
   95 mEq/L
   134 mEq/L
   36.5 %
   7.7 K/uL
        [image002.jpg]
                            [**2156-12-18**]  10:00 PM
                            [**2156-12-19**]  04:04 AM
                            [**2156-12-19**]  06:30 PM
                            [**2156-12-20**]  05:37 AM
                            [**2156-12-20**]  04:01 PM
                            [**2156-12-20**]  08:33 PM
                            [**2156-12-21**]  06:32 AM
                            [**2156-12-21**]  08:05 PM
                            [**2156-12-22**]  01:18 AM
   WBC
   6.2
   5.8
   6.3
   7.7
   Hct
   38.1
   35.5
   40
   38.2
   36.5
   Plt
   [**Telephone/Fax (3) 11602**]59
   Cr
   1.2
   1.0
   0.9
   0.8
   0.7
   0.8
   0.9
   0.9
   TCO2
   25
   Glucose
   164
   126
   188
   145
   237
   207
   210
   142
   Other labs: PT / PTT / INR:14.7/58.2/1.3, CK / CKMB / Troponin-T:51//,
   ALT / AST:52/39, Alk Phos / T Bili:86/1.2, Albumin:3.8 g/dL, LDH:252
   IU/L, Ca++:9.7 mg/dL, Mg++:2.0 mg/dL, PO4:4.2 mg/dL
   Assessment and Plan
   46 F with history of asthma and seasonal allergies who presents with
   3-week history of worsening SOB in context of sinusitis/URI, found to
   have dilated cardiomyopathy, EF 15% transferred to the CCU for
   hypotension and decreased UOP.   Originally thought to be viral
   myocarditis, now assuming ischemic.
   .
   # PUMP:  Dilated LV with severe sys dysfxn EF 15% of likely ischemic
   etiology. LV thrombus found on TTE.  CEs neg x4. TSH nl.  On Cath
   PASP
 66, Wedge - 40
   - continue lasix gtt w/ goal I/O -2-3L
 Lasix stopped yesterday [**3-8**]
   great output
   - monitor [**Hospital1 7**] lytes, daily EKG/continue telemetry monitoring
   - continue low dose BB, ACE with strict holding parameters - uptitrate
   as tolerated
   - strict I/Os, daily weights, low salt diet/1500cc free water
   restriction
 goal (- 1.5-2)
   - continue heparin for LV thrombus, hold on coumadin bridge until
   further evaluation
   .
   # RHYTHM: Was in sinus tach on presentation. Now with rates
   consistently <100.
   - Continue beta blockade as tolerated.
   - Patient may benefit from BiV pacer given LBBB (widened QRS) vs. ICD
   placement.  EP following.
   - Cardiac MR to establish scar prior to ICD, ? BIV Pacer
   .
   # CORONARIES: No prior known history of CAD. EKG with LBBB. Troponins
   flat since admission.  2VD noted on cath, s/p [**Hospital1 **] (Endeavor)
 RCA
   (80%-10%).  MID LAD
 100%,  diffuse LCX,
   - f/u MR results
   - Changed omeprazole to H2 blocker
   - Bival in cath
   - plavix loaded
   - Statin on board
   - Aspirin 325 for at least 3 mos., then 162 mg
   - Plavix must be continued for 3 mos s/[**Initials (NamePattern4) **] [**Last Name (NamePattern4) **] [**Last Name (Prefixes) 6618**] (Endeavor),
   ideally 12 mos.
   .
   # Asthma: Long standing w/ evidence of air trapping on CTA. Had been on
   long-standing predinsone and now off, no evidence of adrenal
   insufficiency on random cortisol.
   - Continue Spiriva
   - switch pulmicort to advair while inpatient
   - cont Xopenex nebs to avoid contributing to tachycardia
   - Will hold off on prednisone for now
   - O2 PRN for SOB
   .
   # Steroid Induced Diabetes Mellitus HbA1c = 8.1 % on admission.
   Question steroids as cause although does have family history with
   mother having type II. Will recommend outpatient follow up on
   discharge.
   - Continue HISS and check FS QID
   - establish fixed dose insulin requirements, insulin teaching as
   patient will need insulin on discharge
   - discuss [**Last Name (un) 303**] consult with Dr. [**Last Name (STitle) **]
   .
   # LV thrombus. Noted on echocardiogram as above.
   - Continue heparin gtt titrated to goal PTT 60-100
   - can start coumadin now that no new procedures are indicated.
   .
   # Nausea/vomiting/diaphoresis. Patient has had N/V regularly over the
   past 3 weeks and during her stay so far. LFTs mildly elevated without
   evidence of obstruction on RUQ US from admission. Possibly related to
   bowel congestion from volume overload.
   - Zofran PRN for nausea
   - f/u lipase
   - switched to H2 blocker given that patient now on Plavix
   .
   # Elevated LFTs. Appear stable. Hep A, Hep B serology negative.
   Possibly secondary to NASH or hepatic congestion from impaired right
   ventricular function. Have been slowly down trending.  resolved
   - f/u iron and HIV labs
   - continue to monitor
   .
   # FEN: diabetic, Cardiac heart healthy diet
   # ACCESS: PIV, PICC
   # PROPHYLAXIS: heparin gtt
   # CODE: full
   # DISPO: to [**Hospital1 1896**] today
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2156-12-18**] 09:02 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: